US07470680B2
tert-butyl 4-(3-(2-fluorophenyl)-2-oxoimidazolidin-1-yl)piperidine-1-carboxylate.
tert-Butyl 4-(3-(2-fluorophenyl)-2-oxo-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate (530 mg, 1.5 mmol) was dissolved in methanol (25 mL). Platinum(IV) oxide (28 mg, 123.3 Emoles) was added to the mixture. Reaction vessel was placed on a Parr apparatus and charged with 60 psi of hydrogen gas. Reaction shook at room temperature for 4 hours. More platinum(IV) oxide (28 mg, 123.3 μmol) was added to the mixture. Reaction vessel was placed on a Parr apparatus and charged with 60 psi of hydrogen gas. Reaction shook at room temperature for 18 hours. Mixture was removed from the apparatus and then filtered over celite. The filtrate was concentrated by roto-vap. Silica gel chromatography eluting ethyl acetate-hexanes afforded the title compound as clear colorless oil in 45% yield. MS (M−C4H10O+H)+=290.0.

reactant | tert-Butyl 4-(3-(2-fluorophenyl)-2-oxo-2,3-dihydroimidazol-1-yl)piperidine-1-carboxylate | 1.5 mmol, 530 mg | FC1=C(C=CC=C1)N1C(N(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C19H24FN3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 25 mL | CO | CH4O
catalyst | Platinum(IV) oxide | 123.3 Emoles, 28 mg | [Pt](=O)=O
catalyst | platinum(IV) oxide | 123.3 μmol, 28 mg | [Pt](=O)=O
product | tert-butyl 4-(3-(2-fluorophenyl)-2-oxoimidazolidin-1-yl)piperidine-1-carboxylate | 45% yield | FC1=C(C=CC=C1)N1C(N(CC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C19H26FN3O3
